US05041448
A mixture of 3.3 parts of 2-bromothiazole, 5.55 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-9-[(4-fluorophenyl)methyl]-9H-purin-8-amine, 2.12 parts of sodium carbonate and 18 parts of N,N-dimethylacetamide was stirred and heated for 20 hours at 130° C. After cooling, the reaction mixture was poured onto water and the product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane, methanol and methanol saturated with ammonia, (90:5:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried in high vacuo at 100° C., yielding 1.8 parts (26.5%) of 9-[(4-fluorophenyl)methyl]-N-[1-[2-(2-thiazolylamino)ethyl)-4-piperidinyl]-9H-purin-8-amine; mp. 165.4° C. (compound 172).

reactant | 2-bromothiazole | BrC=1SC=CN1 | C3H2BrNS
reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-9-[(4-fluorophenyl)methyl]-9H-purin-8-amine | NCCN1CCC(CC1)NC=1N(C2=NC=NC=C2N1)CC1=CC=C(C=C1)F | C19H24FN7
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 9-[(4-fluorophenyl)methyl]-N-[1-[2-(2-thiazolylamino)ethyl)-4-piperidinyl]-9H-purin-8-amine | 26.5% | FC1=CC=C(C=C1)CN1C2=NC=NC=C2N=C1NC1CCN(CC1)CCNC=1SC=CN1 | C22H25FN8S
